US04185115
Preparation of p-Decylbenzyl alcohol
To 69.5 ml. of 1 molar borane in tetrahydrofuran chilled in an ice bath is added dropwise over 40 minutes a solution of 17.2 g. of p-decylbenzoic acid in 150 ml. of dry tetrahydrofuran. The mixture is refluxed for 3.5 hours, chilled, 5 ml. of concentrated hydrochloric acid is added and the mixture poured onto ice. The mixture is filtered and the solid washed with water to give white crystals.

reactant | borane | 1 molar | B | BH3
reactant | p-decylbenzoic acid | C(CCCCCCCCC)C1=CC=C(C(=O)O)C=C1 | C17H26O2
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | p-Decylbenzyl alcohol | C(CCCCCCCCC)C1=CC=C(CO)C=C1 | C17H28O
